US04008269
A mixture of 40.5 g. (0.1 moles) of ethyl α-bromo-3-chloro-4-cyclohexylphenylacetate and 150 g. of sodium iodide in 1 liter of anhydrous acetone is refluxed for 4 hours. The reaction mixture is then evaporated to dryness and extracted with ether. The ether is then washed with water, dried and evaporated to dryness to obtain ethyl α-iodo-3-chloro-4-cyclohexylphenylacetate.

reactant | ethyl α-bromo-3-chloro-4-cyclohexylphenylacetate | 0.1 moles | BrC(C(=O)OCC)C1=CC(=C(C=C1)C1CCCCC1)Cl | C16H20BrClO2
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | ethyl α-iodo-3-chloro-4-cyclohexylphenylacetate | IC(C(=O)OCC)C1=CC(=C(C=C1)C1CCCCC1)Cl | C16H20ClIO2
